US05576324
2-Aminomethyl-3-fluoromethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one.
2-Diallylaminomethyl-3-fluoromethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (609.8 mg, 1.78 mmol) was dissolved in ethanol (50 ml). To the solution, Wilkinson catalyst (100.0 mg, 0.108 mmol), 1,4diazabicyclo[2,2,2]octane (100.0 mg, 0.891 mmol) and water (10 ml) were added, and the mixture was refluxed with heat for 90 minutes. The reaction mixture was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform: saturated ammonia--methanol=50:1). Pale yellow crude crystals were obtained. The crude crystals were dissolved in a solvent mixture of chloroform and methanol (4:1), to which 1.37N-HCl--methanol solution (1.0 ml, 1.37 mmol) was added. The resultant mixture was condensed under reduced pressure, then subjected to azeotropic distillation along with methanol (twice). The residue was recrystallized from methanol--ethanol--ether. 265.0 mg of the title compound was obtained as pale yellow powdery crystals (49.8%).

reactant | 2-Diallylaminomethyl-3-fluoromethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.78 mmol, 609.8 mg | C(C=C)N(CC=C)CC1C(C=2C(=C3C=CC(NC3=C(C2)C)=O)O1)CF | C20H23FN2O2
reactant | 1,4diazabicyclo[2,2,2]octane | 0.891 mmol, 100.0 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | water | 10 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 2-Aminomethyl-3-fluoromethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 265.0 mg | NCC1C(C=2C(=C3C=CC(NC3=C(C2)C)=O)O1)CF | C14H15FN2O2
